US07101905B2
Part A: 2-Acetyl-2-(3-chlorophenyl)-1,3-dithiane
The crude 2-(3-chlorophenyl)-1,3-dithiane is dissolved in anhydrous THF (400 mL). After chilling to −78° C., a solution of n-butyl lithium (2.5 Molar, 42 mL) is added slowly by syringe. The solution is stirred for 30 minutes at −78° C., followed by the addition of acetyl chloride. The mixture is warmed to room temperature, quenched by the addition of a saturated aqueous solution of NH4Cl, washed with water, brine, and dried (Na2SO4). After removing the dessicant, the filtrate was concentrated in vacuo to provide the desired product.

reactant | 2-(3-chlorophenyl)-1,3-dithiane | ClC=1C=C(C=CC1)C1SCCCS1 | C10H11ClS2
reactant | n-butyl lithium | 2.5 Molar, 42 mL | C(CCC)[Li]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-Acetyl-2-(3-chlorophenyl)-1,3-dithiane | C(C)(=O)C1(SCCCS1)C1=CC(=CC=C1)Cl | C12H13ClOS2
